US06930120B2
2-(3-Methoxy-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid
The title compound was prepared from 3-(4-hydroxy-phenyl)-2-(3-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester using the procedure of Example 74. 1H NMR (400 MHz, CDCl3) δ 7.16-7.13 (m, 3H), 6.79 (d, 2H, J=8.60 Hz), 6.61-6.59 (m, 1H), 6.51-6.48 (m, 1H), 6.46 (t, 1H, J=2.35 Hz), 4.13 (t, 2H, J=6.25 Hz), 3.75 (s, 3H), 3.24 (d, 1H, J=13.68 Hz), 3.12 (d, 1H, J=13.68 Hz), 2.96 (t, 2H, J=6.25 Hz), 2.30 (s, 3H), 2.15-2.08 (m, 2H), 1.61-1.45 (m, 5H), 1.44 (s, 3H), 1.43-1.36 (m, 3H), 1.30 (s, 3H); MS (ES+) calcd for C30H38NO6: Found m/e 508.3 (M+1, 100%).

reactant | 3-(4-hydroxy-phenyl)-2-(3-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=CC=C1)OC)=O | C19H22O5
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-(3-Methoxy-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | COC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2(CCCCC2)C)C)C=CC1 | C30H37NO6
